US09169254B2
A 28% solution of sodium methoxide in methanol (0.694 ml, 6.07 mmol) was added to a solution of 4-iodo-2,3-dimethyl-aniline (500 mg, 2.02 mmol) and paraformaldehyde (121 mg, 4.05 mmol) in methanol (8.0 ml), and the mixture was stirred at room temperature for 17 hours. Sodium borohydride (153 mg, 4.05 mmol) was further added, and the mixture was stirred at room temperature for four hours. A 1 N aqueous NaOH solution was added to the reaction mixture, followed by extraction with dichloromethane. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 4-iodo-N,2,3-trimethyl-aniline (146 mg, 88%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 4-iodo-2,3-dimethyl-aniline | 2.02 mmol, 500 mg | IC1=C(C(=C(N)C=C1)C)C | C8H10IN
reactant | paraformaldehyde | 4.05 mmol, 121 mg | C=O | CH2O
reactant | Sodium borohydride | 4.05 mmol, 153 mg | [BH4-].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | methanol | 8.0 ml | CO | CH4O
solvent | methanol | 6.07 mmol, 0.694 ml | CO | CH4O
product | 4-iodo-N,2,3-trimethyl-aniline | 146 mg, 88% | IC1=C(C(=C(NC)C=C1)C)C | C9H12IN
